US04925658
1.24g (5 mmoles) of 3-(1-methylcyclohexyl)-4-methoxybenzoic acid and 15 ml of thionyl chloride are heated at reflux until the cessation of gas evolution. The reaction mixture is evaporated to dryness. 1.32 g (100% yield) of crude 3-(1-methylcyclohexyl)-4-methoxybenzoic acid chloride which is used as such for the following synthesis are obtained.

reactant | 3-(1-methylcyclohexyl)-4-methoxybenzoic acid | 5 mmoles, 1.24g | CC1(CCCCC1)C=1C=C(C(=O)O)C=CC1OC | C15H20O3
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-(1-methylcyclohexyl)-4-methoxybenzoic acid chloride | 1.32 g, 100% yield | CC1(CCCCC1)C=1C=C(C(=O)Cl)C=CC1OC | C15H19ClO2
